US07101868B2
Preparation CCV—4-Nitro-2,3-dihydro-isoindol-1-one
NH3 (2.0 M in MeOH, 50 mL) was slowly added to the solution of 2-bromomethyl-3-nitro-benzoic acid methyl ester (4.46 g, contaminated with a small amount of assumed starting material, 16.3 mmol) in 30 mL of MeOH at RT. The resulting mixture was stirred at RT overnight, to provide the title compound as a white solid. MS (ES+): 179.2 (M+H)+. Calc'd for C8H6N2O3-178.14.

reactant | NH3 | 2.0 M, 50 mL | N | H3N
reactant | 2-bromomethyl-3-nitro-benzoic acid methyl ester | COC(C1=C(C(=CC=C1)[N+](=O)[O-])CBr)=O | C9H8BrNO4
solvent | MeOH | 30 mL | CO | CH4O
product | 4-Nitro-2,3-dihydro-isoindol-1-one | [N+](=O)([O-])C1=C2CNC(C2=CC=C1)=O | C8H6N2O3
